US08912210B2
Step D: (3S,5S)-3-Amino-5-(2-fluorophenyl)-1-(2-methylpropyl)piperidin-2-one
A solution of tert-butyl[(3S,5S)-5-(2-fluorophenyl)-1-(2-methylpropyl)-2-oxopiperidin-3-yl]carbamate (150 mg, 0.41 mmol) in ethyl acetate (20 mL), pre-cooled to 0° C. was sparged with HCl gas for ˜1 min. The ice-bath was removed and the acidic solution was allowed to warm to 23° C. as stirring was continued for 2 h. The mixture was then concentrated to dryness to afford the title compound as a hydrochloride salt. MS: m/z=265.1 (M+1).

reactant | tert-butyl[(3S,5S)-5-(2-fluorophenyl)-1-(2-methylpropyl)-2-oxopiperidin-3-yl]carbamate | 0.41 mmol, 150 mg | C(C)(C)(C)OC(N[C@@H]1C(N(C[C@@H](C1)C1=C(C=CC=C1)F)CC(C)C)=O)=O | C20H29FN2O3
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (3S,5S)-3-Amino-5-(2-fluorophenyl)-1-(2-methylpropyl)piperidin-2-one | N[C@@H]1C(N(C[C@@H](C1)C1=C(C=CC=C1)F)CC(C)C)=O | C15H21FN2O
